US07285563B2
N-(6-Fluoro-3-methylisoquinolin-5-yl)-N′-[4-(trifluoromethoxy)benzyl]urea
Prepared from 6-fluoro-3-methylisoquinohn-5-amine (Description 79) and [4-(trifluoromethoxy)benzyl]isocyanate (Description 59) according to Description 61. m/z (ES+) 394 (M+H)+.

reactant | 6-fluoro-3-methylisoquinohn-5-amine | FC1=C(C=2C=C(N=CC2C=C1)C)N | C10H9FN2
reactant | [4-(trifluoromethoxy)benzyl]isocyanate | FC(OC1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO2
product | N-(6-Fluoro-3-methylisoquinolin-5-yl)-N′-[4-(trifluoromethoxy)benzyl]urea | FC=1C(=C2C=C(N=CC2=CC1)C)NC(=O)NCC1=CC=C(C=C1)OC(F)(F)F | C19H15F4N3O2
